US06288056B1
Synthesis of 1,3-dimethyl-1,4,5,6,7,8-hexahydropyrrolo[3,2-c]azepine-4,8-dione (Compound 12)
To a suspension of potassium t-butoxide (1.62 g, 14.4 mmole) and 18-crown-6 (317 mg, 1.2 mmole) in THF (20 ml), a suspension of 3-methyl-1,4,5,6,7,8-hexahydropyrrolo[3,2-c]azepine-4,8-dione (2.12 g, 12 mmole) in THF (20 ml) and a solution of methyl iodide (2.55 g, 18 mmole) in THF (5 ml) were successively added dropwise, and the reaction mixture was stirred at room temperature. Twenty-four hours later, a solution of-potassium t-butoxide (0.81 g, 7.2 mmole) and methyl iodide (1.28 g, 9.0 mmole) in DMF (5 ml) was added, and 24 hours later, a solution of potassium t-butoxide (0.81 g, 7.2 mmole) and methyl iodide (1.28 g, 9 mmole) in DMF (5 ml) was added further. The reaction mixture was then stirred at room temperature for 3 hours.

reactant | potassium t-butoxide | 14.4 mmole, 1.62 g | CC(C)([O-])C.[K+]
reactant | 18-crown-6 | 1.2 mmole, 317 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 3-methyl-1,4,5,6,7,8-hexahydropyrrolo[3,2-c]azepine-4,8-dione | 12 mmole, 2.12 g | CC1=CNC2=C1C(NCCC2=O)=O | C9H10N2O2
reactant | methyl iodide | 18 mmole, 2.55 g | CI | CH3I
reactant | potassium t-butoxide | 7.2 mmole, 0.81 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 9.0 mmole, 1.28 g | CI | CH3I
reactant | potassium t-butoxide | 7.2 mmole, 0.81 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 9 mmole, 1.28 g | CI | CH3I
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1,3-dimethyl-1,4,5,6,7,8-hexahydropyrrolo[3,2-c]azepine-4,8-dione | CN1C=C(C=2C(NCCC(C21)=O)=O)C | C10H12N2O2
